US07482367B2
Preparation of {1-Methyl-5-[2-(5-trifluoromethyl-1H-imidazol-2-yl)-pyridin-4-yloxy]-1H-benzoimidazol-2-yl}-(4-trifluoromethyl-phenyl)-amine
4-Trifluoromethylphenyl isothiocyanate (200 mg, 1 mmol) was added to a mixture of 4-(2-(5-(trifluoromethyl)-1H-imidazol-2-yl)pyridin-4-yloxy)-N1-methylbenzene-1,2-diamine (350 mg, 1 mmol) in 3 mL of acetonitrile. After stirring for 20 min at ambient temperature, HPLC analysis showed complete conversion. Triethylamine (0.3 mL, 2.2 mmol) was added followed by 2-chloro-1-methylpyridinium iodide (270 mg, 1.05 mmol). The reaction mixture was heated to 50° C. for 5 h. The heating was stopped and 1.5 mL of water was added. After stirring the mixture for 2 h, the solid was collected by filtration and washed with 2:1 acetonitrile/water (3×1 mL) to afford 317 mg (61%) of the title compound.

reactant | 4-Trifluoromethylphenyl isothiocyanate | 1 mmol, 200 mg | FC(C1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NS
reactant | 4-(2-(5-(trifluoromethyl)-1H-imidazol-2-yl)pyridin-4-yloxy)-N1-methylbenzene-1,2-diamine | 1 mmol, 350 mg | FC(C1=CN=C(N1)C1=NC=CC(=C1)OC=1C=C(C(=CC1)NC)N)(F)F | C16H14F3N5O
reactant | Triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 1.05 mmol, 270 mg | [I-].ClC1=[N+](C=CC=C1)C
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 1.5 mL | O | H2O
product | {1-Methyl-5-[2-(5-trifluoromethyl-1H-imidazol-2-yl)-pyridin-4-yloxy]-1H-benzoimidazol-2-yl}-(4-trifluoromethyl-phenyl)-amine | 317 mg, 61% | CN1C(=NC2=C1C=CC(=C2)OC2=CC(=NC=C2)C=2NC(=CN2)C(F)(F)F)NC2=CC=C(C=C2)C(F)(F)F | C24H16F6N6O
